US06747023B1
4-(Aminoacetyl)morpholine hydrochloride
In N,N-dimethylformamide (100 ml), N-tert-butoxycarbonylglycine (2.00 g), morpholine (1.00 ml), 1-hydroxybenzotriazole monohydrate (1.74 g) and 1-(dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (2.84 g) were dissolved, followed by stirring overnight at room temperature. After concentration under reduced pressure, the residue was diluted with dichloromethane, washed with water and dried over anhydrous sodium sulfate. The residue obtained by distilling off the solvent under reduced pressure was purified by chromatography on a silica gel column (dichloromethane:methanol=100:1), whereby a colorless foam was obtained. The substance was dissolved in dichloromethane (2 ml), followed by the addition of saturated solution of hydrochloride in ethanol (10 ml). The resulting mixture was stirred at room temperature for 5 minutes. The reaction mixture was concentrated to dryness under reduced pressure, whereby the title compound (1.80 g, quant.) was obtained as a pale yellow foam was obtained.

reactant | N-tert-butoxycarbonylglycine | 2.00 g | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | morpholine | 1.00 ml | N1CCOCC1 | C4H9NO
reactant | 1-hydroxybenzotriazole monohydrate | 1.74 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 2.84 g | Cl.CN(C)CCCN=C=NCC
reactant | hydrochloride | Cl | ClH
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-(Aminoacetyl)morpholine hydrochloride | Cl.NCC(=O)N1CCOCC1 | InChI=1S/C6H12N2O2.ClH/c7-5-6(9)8-1-3-10-4-2-8;/h1-5,7H2;1H
